US05534515
1c. 1-Benzyl-7-benzylamino-3-hydroxymethyl-2-methylpyrrolo[2,3-d]pyridazine
0.2 g (0.56 mmol) of 1-benzyl-7-benzylamino-3-formyl-2-methylpyrrolo[2,3-d]pyridazine and 23 mg (0.62 mmol) of sodium borohydride are reacted in 20 ml of methanol as described for Example 1a. Yield: 80%, m.p.: 238°-240° C.

reactant | 1-benzyl-7-benzylamino-3-formyl-2-methylpyrrolo[2,3-d]pyridazine | 0.56 mmol, 0.2 g | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)NCC2=CC=CC=C2)C=O)C | C22H20N4O
reactant | sodium borohydride | 0.62 mmol, 23 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-Benzyl-7-benzylamino-3-hydroxymethyl-2-methylpyrrolo[2,3-d]pyridazine | Yield: 80% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)NCC2=CC=CC=C2)CO)C | C22H22N4O
